US07399860B2
To a solution of paclitaxel (1.0 g, 1.17 mmol) in tetrahydrofuran (20 mL) was added hydrogen peroxide (30%, 20 mL) followed by sodium bicarbonate (1.92 g, 22.85 mmol). After stirring at room temperature for 18 hrs, the mixture was treated with dichloromethane/water (1:1(v/v), 100 mL). The organic phase was washed with water (2×30 mL), dried over anhydrous magnesium sulfate, and concentrated under vacuum. The residue was purified by silica gel flash chromatography eluting with 3% methanol/dichloromethane (v/v) to yield 10-deacetylpaclitaxel (890 mg, 93% yield) as a white powder.

reactant | paclitaxel | 1.17 mmol, 1.0 g | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | hydrogen peroxide | 20 mL | OO | H2O2
reactant | sodium bicarbonate | 22.85 mmol, 1.92 g | C([O-])(O)=O.[Na+]
reactant | dichloromethane water | ClCCl.O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 10-deacetylpaclitaxel | 890 mg, 93% yield | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@](C3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)NC(=O)C6=CC=CC=C6)O)O)OC(=O)C7=CC=CC=C7)(CO4)OC(=O)C)O)C)O | C45H49NO13
